US08044062B2
Iodine (3.04 g, 12.0 mmol) was added to a solution of N4-benzyl-6-methylpyrimidine-2,4-diamine (2.33 g, 10.9 mmol) in anhydrous MeOH (50 mL) at 0° C. The reaction was allowed to warm to room temperature overnight. After 12 hours, an additional 0.5 equiv of iodine was added, and the reaction warmed to 50° C. After four hours, the reaction was cooled to room temperature and concentrated in vacuo. The residue was diluted with ethyl acetate (200 mL) and washed with 10% NaHSO3 (200 mL). The aqueous phase was separated and washed once more with ethyl acetate (200 mL). The organic phases were combined, washed with brine, separated and dried over Na2SO4. The filtrate was concentrated in vacuo to afford the product N4-benzyl-5-iodo-6-methylpyrimidine-2,4-diamine (3.14 g, 85% yield).

reactant | Iodine | 12.0 mmol, 3.04 g | II | I2
reactant | N4-benzyl-6-methylpyrimidine-2,4-diamine | 10.9 mmol, 2.33 g | C(C1=CC=CC=C1)NC1=NC(=NC(=C1)C)N | C12H14N4
reactant | iodine | 0.5 equiv | II | I2
solvent | MeOH | 50 mL | CO | CH4O
product | N4-benzyl-5-iodo-6-methylpyrimidine-2,4-diamine | 3.14 g, 85% yield | C(C1=CC=CC=C1)NC1=NC(=NC(=C1I)C)N | C12H13IN4
